US07795267B2
Tetrahydro-N-[2-(4-morpholinyl)ethyl]-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.17 g, 0.58 mmol) was dissolved in toluene (1.5 mL). 2-Bromoethyl isocyanate (0.10 g, 0.67 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate), and the fractions were collected and concentrated. The residue was dissolved in N,N-dimethylformamide (2 mL), morpholine (0.20 g, 3.9 mmol) was added thereto, and the mixture was stirred at 60° C. for 16 hours. To the reaction solution was added ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and concentrated under reduced pressure. The residue was purified with amino silica gel column chromatography (ethyl acetate), and crystallized from hexane to obtain the title compound (66 mg, yield 26%).

reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.58 mmol, 0.17 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | 2-Bromoethyl isocyanate | 0.67 mmol, 0.10 g | BrCCN=C=O | C3H4BrNO
reactant | morpholine | 3.9 mmol, 0.20 g | N1CCOCC1 | C4H9NO
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | Tetrahydro-N-[2-(4-morpholinyl)ethyl]-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 66 mg, yield 26% | N1(CCOCC1)CCNC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C25H30N4O4
